US08211402B2
A solution of (S)-4-(3-((S)-6-(bis((1-(2-tert-butoxy-2-oxoethyl)-1H-imidazol-2-yl)methyl)amino)-1-tert-butoxy-1-oxohexan-2-yl)ureido)-5-tert-butoxy-5-oxopentanoic acid (80 mg, 0.098 mmol), 4-(2-aminoethyl)benzenesulfonamide (30 mg, 0.15 mmol), HATU (50 mg, 0.17 mmol), and DIPEA (0.50 mL) in DMF (5 mL) was stirred at 40° C. overnight. The solvents were evaporated under reduced pressure to give a residue, which was purified by Biotage SP4 using a gradient of 0-20% MeOH in DCM to give (S)-tert-butyl 6-(bis((1-(2-tert-butoxy-2-oxoethyl)-1H-imidazol-2-yl)methyl)amino)-2-(3-((S)-1-tert-butoxy-1,5-dioxo-5-(4-sulfamoylphenethylamino)pentan-2-yl)ureido)hexanoate (100 mg, 100%). ESMS m/z: 501.9 (M/2+H)+.

reactant | (S)-4-(3-((S)-6-(bis((1-(2-tert-butoxy-2-oxoethyl)-1H-imidazol-2-yl)methyl)amino)-1-tert-butoxy-1-oxohexan-2-yl)ureido)-5-tert-butoxy-5-oxopentanoic acid | 0.098 mmol, 80 mg | C(C)(C)(C)OC(CN1C(=NC=C1)CN(CCCC[C@@H](C(=O)OC(C)(C)C)NC(N[C@@H](CCC(=O)O)C(=O)OC(C)(C)C)=O)CC=1N(C=CN1)CC(OC(C)(C)C)=O)=O | C40H65N7O11
reactant | 4-(2-aminoethyl)benzenesulfonamide | 0.15 mmol, 30 mg | NCCC1=CC=C(C=C1)S(=O)(=O)N | C8H12N2O2S
reactant | HATU | 0.17 mmol, 50 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.50 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (S)-tert-butyl 6-(bis((1-(2-tert-butoxy-2-oxoethyl)-1H-imidazol-2-yl)methyl)amino)-2-(3-((S)-1-tert-butoxy-1,5-dioxo-5-(4-sulfamoylphenethylamino)pentan-2-yl)ureido)hexanoate | 100 mg, 100% | C(C)(C)(C)OC(CN1C(=NC=C1)CN(CCCC[C@@H](C(=O)OC(C)(C)C)NC(=O)N[C@H](C(=O)OC(C)(C)C)CCC(NCCC1=CC=C(C=C1)S(N)(=O)=O)=O)CC=1N(C=CN1)CC(OC(C)(C)C)=O)=O | C48H75N9O12S
